US07960374B2
10-Chloro-2-methyl-8-(phenylsulfonyl)-1,3,4,8-tetrahydro-2H-[1,4]oxazepino[6,7-e]indole
N-chlorosuccinimide (NCS) (29 mg, 0.21 mmol) was added to a solution of 2-methyl-8-(phenylsulfonyl)-1,3,4,8-tetrahydro-2H-[1,4]oxazepino[6,7-e]indole Example 5, 0.050 g, 0.15 mmol) in THF (2 mL) and the reaction mixture was heated at 50° C. overnight. Additional NCS (0.030 g, 0.22 mmol) was added and the mixture was heated for 4 days at 50° C. The mixture was evaporated and the crude material was purified by flash chromatography on silica gel using MeOH:DCM:NEt3 (2:97:1) to give 7.3 mg of a white solid. MS m/z 377 [M+H]+.

reactant | N-chlorosuccinimide | 0.21 mmol, 29 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-methyl-8-(phenylsulfonyl)-1,3,4,8-tetrahydro-2H-[1,4]oxazepino[6,7-e]indole | CN1CCOC=2C(=C3C=CN(C3=CC2)S(=O)(=O)C2=CC=CC=C2)C1 | C18H18N2O3S
reactant | NCS | 0.22 mmol, 0.030 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 10-Chloro-2-methyl-8-(phenylsulfonyl)-1,3,4,8-tetrahydro-2H-[1,4]oxazepino[6,7-e]indole | 7.3 mg | ClC1=CN(C2=CC=C3C(=C12)CN(CCO3)C)S(=O)(=O)C3=CC=CC=C3 | C18H17ClN2O3S
